US08044062B2
To a solution of 4-(ethylamino)-6-methyl-2-(methylthio)pyrimidine-5-carbaldehyde (38 g, 180 mmol) in THF (500 mL) was added (Carbethoxymethylene) triphenylphosphorane (95%, Aldrich, 85.18 g, 244 mmol). The reaction mixture was heated to reflux for 1.5 h and was monitored by TLC (4:1 hexanes/ethylacetate). The reaction was cooled to room temperature and was concentrated on a rotary evaporator. It was directly subjected to column chromatography (4:1 hexanes/ethylacetate) to give (E)-ethyl-3-(4-(ethylamino)-6-methyl-2-(methylthio)pyrimidin-5-yl)acrylate as a white crystal, 46.14 g (91% yield).

reactant | 4-(ethylamino)-6-methyl-2-(methylthio)pyrimidine-5-carbaldehyde | 180 mmol, 38 g | C(C)NC1=NC(=NC(=C1C=O)C)SC | C9H13N3OS
reactant | (Carbethoxymethylene) triphenylphosphorane | 244 mmol, 85.18 g | C(=O)(OCC)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21O2P
solvent | THF | 500 mL | C1CCOC1 | C4H8O
product | (E)-ethyl-3-(4-(ethylamino)-6-methyl-2-(methylthio)pyrimidin-5-yl)acrylate | 91% yield | C(C)OC(\C=C\C=1C(=NC(=NC1C)SC)NCC)=O | C13H19N3O2S
